US03972859
a. Preparation of Z-(D)-Nva-Leu-Arg(NO2)-Pro-Gly-NH2
To a solution of Z-(D)-Nva-OH(380 mg), H-Leu-Arg(NO2)-Pro-Gly-NH2 (690 mg.) and HONB (300 mg.) in 5 ml. of dimethylformamide is added 340 mg. of DCC at 0°C with stirring. The mixture is stirred for 2 hours at 0°C and for additional 10 hours at room temperature. The reaction mixture is filtered to remove the formed dicyclohexyl-urea, and the filtrate is evaporated to dryness. The resulting residue is dissolved in 100 ml. of chloroform and the solution is washed with 4 % aqueous sodium bicarbonate solution and water. The washed solution is dried over anhydrous magnesium sulfate and evaporated to dryness. The residue is then triturated with a mixture of ethylacetate (25 ml.) and ether (25 ml.) to give a white powder, which is collected by filtration and reprecipitated from ethanol-ether: yield, 1.12 g., [α]D23 -50.5°(c=1.1 in Methanol), Rf1 =0.32.

reactant | Z-(D)-Nva-OH | 380 mg | N([C@H](CCC)C(=O)O)C(=O)OCC1=CC=CC=C1 | C13H17NO4
reactant | H-Leu-Arg(NO2)-Pro-Gly-NH2 | 690 mg | N[C@@H](CC(C)C)C(=O)N[C@@H](CCCNC(N[N+](=O)[O-])=N)C(=O)N1[C@H](C(=O)NCC(=O)N)CCC1 | C19H35N9O6
reactant | HONB | 300 mg | C1C2C=CC1C3C2C(=O)N(C3=O)O | C9H9NO3
reactant | DCC | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | Methanol | CO | CH4O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | Z-(D)-Nva-Leu-Arg(NO2)-Pro-Gly-NH2 | N([C@H](CCC)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCCNC(N[N+](=O)[O-])=N)C(=O)N1[C@H](C(=O)NCC(=O)N)CCC1)C(=O)OCC1=CC=CC=C1 | C32H50N10O9
